data/mechanism_extracts/ChemCommun/10.1039_D4CC00843J.json
{"doi": "10.1039_D4CC00843J", "journal": "ChemCommun", "is_review": false, "rxn_class_summary": "Electrochemical oxidative C-C bond cleavage/ring-opening of arylmethylenecyclopropanes with alcohols to give alkyl 4-alkoxy-4-arylbutanoates without external oxidant or metal catalyst", "mechanism_family": ["radical_cation", "direct_SET", "radical_polar_crossover", "paired_electrolysis"], "electrochemical_role": "Anodic single-electron oxidation of the styryl C=C of the methylenecyclopropane to a radical cation; cathode reduces methanol/protons to H2 and generates methoxide that serves as the nucleophile", "key_intermediates": [{"name": "aryl-stabilized MCP radical cation (I)", "smiles": null, "role": "reactive"}, {"name": "β-methoxy benzylic carbocation after ring opening (II/II')", "smiles": null, "role": "reactive"}, {"name": "ring-opened γ-methoxy alcohol intermediate III (detected by GC-MS and HRMS)", "smiles": null, "role": "transient"}, {"name": "aldehyde intermediate IV (γ-methoxy-γ-aryl aldehyde, detected by GC-MS/HRMS)", "smiles": null, "role": "transient"}, {"name": "acylium cation V from SET oxidation and H-loss of aldehyde IV", "smiles": null, "role": "reactive"}], "electron_flow": "Anode removes one electron from the styryl double bond of the MCP to give a radical cation I; methoxide (generated at cathode) attacks, and a second anodic oxidation gives benzylic cation II which opens the cyclopropane to give carbocation II'; water traps it to alcohol III, which undergoes sequential two-electron anodic oxidation/loss of 2 H2O to aldehyde IV; further SET oxidation and H-loss yields acylium V, trapped by methoxide to give ester 2b.", "rate_determining_step": "Initial anodic single-electron oxidation of the styryl C=C (Eox ≈ 1.55 V vs Ag/AgCl)", "probe_reagents": [{"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "Reaction completely shut down with 2 equiv TEMPO; only trace 2b"}, {"name": "BHT", "smiles": "CC(C)(C)c1cc(C)cc(C(C)(C)C)c1O", "purpose": "radical_trap", "observation": "BHT-adduct 2b' detected by HRMS (M+Na 433.2719 calc / 433.2724 found), supporting radical pathway"}, {"name": "divided cell experiment", "smiles": null, "purpose": "other", "observation": "Product forms only when substrate is in the anodic chamber (50% yield); no reaction in cathodic chamber, confirming anodic oxidation is key"}, {"name": "substrate 1y (no C=C, only aryl ring)", "smiles": null, "purpose": "redox_probe", "observation": "No reaction, confirming the double bond is required for initiation"}, {"name": "substrate 1z (alkyl MCP without aryl ring)", "smiles": null, "purpose": "redox_probe", "observation": "No reaction, showing aryl ring is needed to lower oxidation potential of the alkene"}, {"name": "dicyclopropyl substrate giving 2u", "smiles": null, "purpose": "intermediate_trap", "observation": "Only one cyclopropane opens; the other remains intact, supporting ring opening via alkene oxidation rather than radical at cyclopropyl"}, {"name": "independently prepared intermediate III", "smiles": null, "purpose": "stoichiometric_intermediate", "observation": "Subjecting III to standard conditions delivers 2b, confirming III is on-pathway"}, {"name": "CH3OH/D2O labeling", "smiles": null, "purpose": "isotope_label", "observation": "Deuterated intermediate III' detected by GC-MS, confirming H2O incorporation in the ring-opening step"}, {"name": "electricity on/off", "smiles": null, "purpose": "other", "observation": "Reaction halts when current is off; continuous current required (ESI Fig. S1)"}, {"name": "cyclic voltammetry", "smiles": null, "purpose": "redox_probe", "observation": "Eox(1b) = 1.55 V; Eox(1v, no C=C) = 2.2 V vs Ag/AgCl, assigning the 1.55 V wave to the styryl alkene"}], "evidence_types_used": ["intermediate_trap_TEMPO", "intermediate_trap_BHT", "stoichiometric_intermediate", "cyclic_voltammetry", "on/off_light_or_current", "H/D_labeling", "isolation_of_intermediate", "other"], "evidence_strength": "strong", "notes": "An alternative pathway (Scheme S1) was considered in which ring opening occurs directly from radical cation I before the second oxidation; the authors favor the cation-mediated ring opening of II→II' due to β-silyl/β-methoxy stabilization. Cathodic methoxide generation and H2 evolution make this effectively a paired electrolysis."}
